US08232278B2
Synthesis of 6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)one
To a solution of 6-chloro-pyrido[3,2-d]pyrimidin-4(3H)one (1.0 g, 5.5 mmol) in dioxane (80 ml) and water (20 ml) was added 4-fluorophenylboronic acid (770 mg, 5.5 mmol), K2CO3 (2.28 g, 16.5 mmol), and tetrakis(triphenylphosphine)palladium(0) (290 mg, 0.25 mmol). The mixture was heated at reflux for 20 hours. After cooling to room temperature, the reaction mixture was neutralized to pH 5-6 with acetic acid, concentrated to a small volume, filtered and washed with water to yield a crude product. The crude residue was purified by silica gel flash chromatography, the mobile phase being a mixture of methanol and dichloromethane, in a volume ratio of 1:30, yielding the title compound as a white solid (1.2 g, yield: 90%) which was characterised by its mass spectrum as follows: MS (m/z): 242 ([M+H]+, 100).

reactant | 6-chloro-pyrido[3,2-d]pyrimidin-4(3H)one | 5.5 mmol, 1.0 g | ClC=1C=CC=2N=CNC(C2N1)=O | C7H4ClN3O
reactant | 4-fluorophenylboronic acid | 5.5 mmol, 770 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 16.5 mmol, 2.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.25 mmol, 290 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)one | 1.2 g, yield: 90% | FC1=CC=C(C=C1)C=1C=CC=2N=CNC(C2N1)=O | C13H8FN3O
